US04171367
4-Amino-5-chloro-1,3-dimethyl pyrazole hydrochloride
4-Chloro-1,3-dimethyl-4-nitropyrazole (described in U.S. Pat. No. 3,282,954) (70.0 g.) was dissolved in 900 ml. methanol and 68 ml. concentrated HCl and hydrogenated over 3.2 g. platinum on carbon. After the hydrogen uptake ceased, the catalyst was filtered, the solvent concentrated in vacuum and the residue crystallized from isopropyl alcohol to get 64.15 g. of product, mp 234°-235° C., decomposed.

reactant | 4-Chloro-1,3-dimethyl-4-nitropyrazole | ClC1(C(=NN(C1)C)C)[N+](=O)[O-] | C5H8ClN3O2
reactant | HCl | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | platinum on carbon | [Pt] | Pt
solvent | methanol | CO | CH4O
product | 4-Amino-5-chloro-1,3-dimethyl pyrazole hydrochloride | Cl.NC=1C(=NN(C1Cl)C)C | InChI=1S/C5H8ClN3.ClH/c1-3-4(7)5(6)9(2)8-3;/h7H2,1-2H3;1H
